US09447106B2
To a solution of 5-amino-3-(4-phenoxyphenyl)-1H-pyrazole-4-carbonitrile (276 mg, 1.0 mmol) in EtOH (10 mL) was added ethyl 2-formyl-3-oxopropanoate (144 mg, 1.0 mmol) and HOAc (5 drops). After stirring at RT for 16 hr, the mixture was filtered. The cake was washed with H2O (10 mL×2) and dried to afford 250 mg (65%) of ethyl 3-cyano-2-(4-phenoxyphenyl)pyrazolo[1,5-a]pyrimidine-6-carboxylate as a yellow solid. MS (ESI) m/e [M+1]+ 384.9.

reactant | 5-amino-3-(4-phenoxyphenyl)-1H-pyrazole-4-carbonitrile | 1.0 mmol, 276 mg | NC1=C(C(=NN1)C1=CC=C(C=C1)OC1=CC=CC=C1)C#N | C16H12N4O
reactant | ethyl 2-formyl-3-oxopropanoate | 1.0 mmol, 144 mg | C(=O)C(C(=O)OCC)C=O | C6H8O4
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | HOAc | 5 drops | CC(=O)O | C2H4O2
product | ethyl 3-cyano-2-(4-phenoxyphenyl)pyrazolo[1,5-a]pyrimidine-6-carboxylate | 250 mg, 65% | C(#N)C=1C(=NN2C1N=CC(=C2)C(=O)OCC)C2=CC=C(C=C2)OC2=CC=CC=C2 | C22H16N4O3
